US06410795B1
Preparation of Dibenzoylmethane (DBM)
Into a two liter beaker equipped with a mechanical stirrer, 500 mL of water and 250 mL of cumene were added. A ph-stat (Metrohm titrator, model 716 DMS, Brinkmann Instruments) was set up to add acetic acid to pH 7. The sodium salt of DBM was added slowly to the beaker. The pH varied between 5 and 7.5; 14.7 mL of acetic acid was added. The two layers were transferred to a separation funnel, the aqueous layer was removed, and the organic layer was washed with aqueous sodium bicarbonate and then with water. The organic layer was then concentrated under vacuum in a rotary evaporator. The residue was crystallized from 90% isopropanol, affording DBM (53.58 g, 96% yield) having a purity of more than 99% (GC).

reactant | water | 500 mL | O | H2O
reactant | cumene | 250 mL | C1(=CC=CC=C1)C(C)C | C9H12
reactant | DMS | CSC | C2H6S
reactant | sodium | [Na] | Na
reactant | acetic acid | 14.7 mL | C(C)(=O)O | C2H4O2
product | Dibenzoylmethane | C(C1=CC=CC=C1)(=O)CC(C1=CC=CC=C1)=O | C15H12O2
